US05011947
3,3-bis(4-fluorophenyl)-2-methylpropenal
A solution of 3,3-bis(4-fluorophenyl)-2-methylpropenol (5.5 g, 21 mmol) and pyridinium chlorochromate (5.5 g) in 150 mL dichloromethane was stirred for 16 hours. The mixture was concentrated in vacuo and the dark residue extracted with several 50 mL volumes of hexane. The hexane solution was chromatographed on silica gel eluting with 2% ethyl acetate in hexane to give 2.0 g of the title compound; m.p. =77°-80° C.

reactant | 3,3-bis(4-fluorophenyl)-2-methylpropenol | 21 mmol, 5.5 g | FC1=CC=C(C=C1)C(C(=CO)C)C1=CC=C(C=C1)F | C16H14F2O
reactant | pyridinium chlorochromate | 5.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3,3-bis(4-fluorophenyl)-2-methylpropenal | 2.0 g | FC1=CC=C(C=C1)C(=C(C=O)C)C1=CC=C(C=C1)F | C16H12F2O
